US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)propyl]-4-chlorobenzamide
A suspension of 4-chlorobenzamide (1.50 g, 9.6 mmol), propionaldehyde diethyl acetal (1.53 g, 11.6 mmol), and benzotriazole (1.15 g, 9.6 mmol) in toluene (35 mL) was treated with p-toluenesulfonic acid (100 mg, 0.53 mmol). The mixture was heated at reflux under Dean-Stark conditions for 16 hours, cooled to ambient temperature, and concentrated to dryness. The crude material was purified by flash chromatography (elution with 40% ethyl acetate/hexanes) to provide 0.860 g of the desired product as a white solid.

reactant | 4-chlorobenzamide | 9.6 mmol, 1.50 g | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | propionaldehyde diethyl acetal | 11.6 mmol, 1.53 g | C(C)OC(CC)OCC | C7H16O2
reactant | benzotriazole | 9.6 mmol, 1.15 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | 0.53 mmol, 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)propyl]-4-chlorobenzamide | 0.860 g | N1(N=NC2=C1C=CC=C2)C(CC)NC(C2=CC=C(C=C2)Cl)=O | C16H15ClN4O
